US08039472B2
(4-((R)-4,5-Diamino-pentyl)-phenol
A solution of (R)-2-Amino-5-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-pentanoic acid amide (7.74 g, 24 mmol) in THF is stirred at 5° C. and borane (96 ml of a 1 M solution in THF, 96 mmol) is added. The mixture is stirred at 5° C. until a homogeneous mixture is obtained and then stirred at room temperature for 30 minutes and 35° C. for 3 hours. After this time, further borane (24 ml of a 1 M solution in THF, 24 mmol) is added and the reaction is heated at 35° C. for 18 hours. After this time, a further portion of borane (24 ml of a 1 M solution in THF, 24 mmol) is added and the reaction heated at 35° C. for a further 24 hours. After this time, the reaction is cooled to 10° C., and quenched by adding dropwise to MeOH (50 ml) at −5° C. After allowing to warm to room temperature the solvent is removed in vacuo to afford a yellow oil. The oil is dissolved in MeOH (250 ml) and SCX-2 silica (180 g, 0.63 mmol/g, 120 mmol) is added. The silica suspension is shaken for 18 hours, the silica is removed by filtration, washed with MeOH (3×100 ml), then suspended in 7M NH3 in MeOH and shaken for 18 hours. The silica is removed by filtration and the 7M NH3 in MeOH is removed in vacuo to afford the title compound as a yellow oil; [M+H]+ 195

reactant | (R)-2-Amino-5-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-pentanoic acid amide | 24 mmol, 7.74 g | N[C@@H](C(=O)N)CCCC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C17H30N2O2Si
reactant | borane | B | BH3
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | 250 ml | CO | CH4O
product | 4-((R)-4,5-Diamino-pentyl)-phenol | N[C@H](CCCC1=CC=C(C=C1)O)CN | C11H18N2O
